US08022206B2
3-(3-Aminocyclohex-1-enyl)-7-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine
The title compound was prepared according to General procedure A with starting material 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine and the mixture of [3-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)-cyclohex-3-enyl]-carbamic acid tert-butyl ester and [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclohex-2-enyl]-carbamic acid tert-butyl ester. 1H-NMR (CD3OD, 400 MHz): δ=1.48-1.82 (m, 2H), 1.88 (d, 3H), 1.91-2.16 (m, 2H), 2.38 (d, J=5.3 Hz, 2H), 3.72 (br. s., 1H), 6.21 (br. s., 1H), 6.48 (qd, J=6.7, 2.5 Hz, 1H), 7.02-7.14 (m, 1H), 7.38 (dd, J=8.8, 4.8 Hz, 1H), 7.63 (s, 1H), 8.22 (s, 1H). MS (ES+): m/z 436.03 (MH+, 35Cl, 37Cl), 437.96 (MH+, 37Cl, 37Cl). HPLC: tR=2.38 min (polar—5 min, ZQ3).

reactant | 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | [3-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)-cyclohex-3-enyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC(=CCC1)B1OC(C(O1)(C)C)(C)C)=O | C17H30BNO4
reactant | [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclohex-2-enyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C=C(CCC1)B1OC(C(O1)(C)C)(C)C)=O | C17H30BNO4
product | 3-(3-Aminocyclohex-1-enyl)-7-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine | NC1C=C(CCC1)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C21H20Cl2FN3O2
